US04734424
A. N-Nonanoyl glycine
Glycine (20 mmol) was reacted with nonanoyl chloride (22 ml) in the presence of NaOH (40 mmol) in a mixture of water and ether as described in Example 1 Part A. The crude crystalline product (4.25 g) was recrystallized from ethyl acetate (40-50 ml) to give the title compound (3.42 g, 79.5%), m.p. 106°-109° C.

reactant | Glycine | 20 mmol | NCC(=O)O | C2H5NO2
reactant | nonanoyl chloride | 22 ml | C(CCCCCCCC)(=O)Cl | C9H17ClO
reactant | NaOH | 40 mmol | [OH-].[Na+]
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | N-Nonanoyl glycine | 3.42 g, 79.5% | C(CCCCCCCC)(=O)NCC(=O)O | C11H21NO3
